US05424183
Methyl 4-dodecyloxybenzoate:
This compound was prepared from methyl 4-hydroxybenzoate and dodecylbromide in an analogous manner to that described above for methyl 4-octadecyloxybenzoate.

reactant | methyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | dodecylbromide | C(CCCCCCCCCCC)Br | C12H25Br
reactant | methyl 4-octadecyloxybenzoate | C(CCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)OC)C=C1 | C26H44O3
product | Methyl 4-dodecyloxybenzoate | C(CCCCCCCCCCC)OC1=CC=C(C(=O)OC)C=C1 | C20H32O3
